US08420661B2
Bis-(triphenylphosphine)-palladium(II)dichloride (1.48 g, 2.11 mmol, 0.05 equiv.) was dissolved in 200 ml THF. (10 g, 42.2 mmol) 5-Bromo-2-(methylsulfonyl)pyrimidine and phenylacetylene (9.26 ml, 84.4 mmol, 2 equiv.) were added at room temperature. Triethylamine (17.6 ml, 127 mmol, 3 equiv.), triphenylphosphine (330 mg, 1.3 mmol, 0.03 equiv.) and copper(I) iodide (80 mg, 420 μmol, 0.01 equiv.) were added and the mixture was stirred for 4 hours at 65° C. The reaction mixture was cooled and extracted with saturated NaHCO3 solution and two times with EtOAc. The organic layers were extracted with water, dried over sodium sulfate and evaporated to dryness. The crude product was purified by flash chromatography on a silica gel column and eluting with an ethyl acetate:heptane gradient 0:100 to 100:0. The desired 2-methanesulfonyl-5-phenylethynyl-pyrimidine (6.2 g, 57% yield) was obtained as a yellow solid, MS: m/e=259.1 (M+H+).

reactant | 5-Bromo-2-(methylsulfonyl)pyrimidine | 42.2 mmol, 10 g | BrC=1C=NC(=NC1)S(=O)(=O)C | C5H5BrN2O2S
reactant | phenylacetylene | 84.4 mmol, 9.26 ml, 2 equiv. | C1(=CC=CC=C1)C#C | C8H6
reactant | Triethylamine | 127 mmol, 17.6 ml, 3 equiv. | C(C)N(CC)CC | C6H15N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | Bis-(triphenylphosphine)-palladium(II)dichloride | 2.11 mmol, 1.48 g, 0.05 equiv. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I) iodide | 420 μmol, 80 mg, 0.01 equiv. | [Cu]I
catalyst | triphenylphosphine | 1.3 mmol, 330 mg, 0.03 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-methanesulfonyl-5-phenylethynyl-pyrimidine | 6.2 g, 57% yield | CS(=O)(=O)C1=NC=C(C=N1)C#CC1=CC=CC=C1 | C13H10N2O2S
